US08084448B2
G. 5-(4-Chloro-2-hydroxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-(2-benzyloxy-4-chlorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (388 mg, 1.1 mmol) in methylene chloride (10 mL) at 0° C. is added dropwise BBr3 (1.65 mL of 1.0M in methylene chloride, 1.65 mmol) and the mixture is stirred at 0° C. for 30 min. Ice is added and the organic phase is washed with 1N HCl. The aqueous phase is washed with methylene chloride and the combined organic layers are dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by preparative HPLC to give the title compound as a white solid: (M−1)−=261.

reactant | 5-(2-benzyloxy-4-chlorophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 1.1 mmol, 388 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)N1CC(NS1(=O)=O)=O | C15H13ClN2O4S
reactant | BBr3 | 1.65 mmol, 1.0M, 1.65 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-Chloro-2-hydroxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | ClC1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C8H7ClN2O4S
